### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries): binomial series

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR defines formal power series of the form `(1 + X) ^ r` for `r` an element of a binomial ring. By Chu-Vandermonde, addition of exponents yields multiplication of series.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Binomial.lean [hunk 1]
```diff
@@ -411,6 +411,14 @@ theorem choose_one_right' (r : R) : choose r 1 = r ^ 1 := by
 theorem choose_one_right [NatPowAssoc R] (r : R) : choose r 1 = r := by
   rw [choose_one_right', npow_one]
 
+theorem choose_neg [NatPowAssoc R] (r : R) (n : ℕ) :
+    choose (-r) n = (-1)^n • choose (r + n - 1) n := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Binomial.lean:415]: Is [Int.negOnePow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/NegOnePow.html#Int.negOnePow) useful here?

Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: It doesn't seem to hurt, but I may need to add some API to help with casts.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
